US04690943
1-Acetyl-3-(2-phenylacetyl)-2-oxindole
3-(2-Phenylacetyl)-2-oxindole was acetylated with acetic anhydride using the procedure of Example 7. When the reaction mixture was poured into a mixture of 3N hydrochloric acid and water, a solid formed. The solid was recovered by filtration and recrystallized from isopropanol to give a 40% yield of the title compound, m.p. 149°-151° C.

reactant | 3-(2-Phenylacetyl)-2-oxindole | C1(=CC=CC=C1)CC(=O)C1C(NC2=CC=CC=C12)=O | C16H13NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | water | O | H2O
product | 1-Acetyl-3-(2-phenylacetyl)-2-oxindole | 40% yield | C(C)(=O)N1C(C(C2=CC=CC=C12)C(CC1=CC=CC=C1)=O)=O | C18H15NO3
